US07517873B2
A mixture of 0.08 g (0.0003 mole) of 9-butyl-2-chloro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-44), 0.060 g (0.00036 mole) of 4-amino-3-methoxy-benzoic acid, 0.5 mL of ethanol, 2 mL of water, and 2 drops of hydrochloric acid was heated at 100 degrees overnight. Upon cooling, a precipitate formed which was collected by filtration to give 0.084 g of 4-(9-butyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-44a) as an off-white solid.

reactant | 9-butyl-2-chloro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0003 mole, 0.08 g | C(CCC)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)Cl | C12H17ClN4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.00036 mole, 0.060 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 4-(9-butyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.084 g | C(CCC)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C20H25N5O4
